US06949579B2
1.95 g of 1-bromo-2-chloro-4-(phenylmethoxy)benzene, described previously, 1.11 g of sodium carbonate in 36 cm3 of water and 347 mg of tetrakis(triphenylphosphine)palladium are added to 2 g of N-[6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously in Example 56, in 180 cm3 of dioxane. The medium is then refluxed for 2 hours and the mixture is allowed to return to room temperature, 200 cm3 of ethyl acetate and 100 cm3 of water are added and the resulting mixture is filtered through a sinter funnel packed with Celite. The combined organic phases are washed with 100 cm3 of distilled water and then with 100 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 45° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (85/15 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). 1.34 g of N-[6-[2-chloro-4-(phenylmethoxy)phenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are obtained in the form of a yellow oil.

reactant | 1-bromo-2-chloro-4-(phenylmethoxy)benzene | 1.95 g | BrC1=C(C=C(C=C1)OCC1=CC=CC=C1)Cl | C13H10BrClO
reactant | sodium carbonate | 1.11 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 2 g | CC1(OB(OC1(C)C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C | C23H38BN3O4Si
reactant | ethyl acetate | 200 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 36 cm3 | O | H2O
solvent | dioxane | 180 cm3 | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 347 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 cm3 | O | H2O
product | N-[6-[2-chloro-4-(phenylmethoxy)phenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.34 g | ClC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C30H36ClN3O3Si
